US08808703B2
A solution of (R)-(2-azido-3-(hexadecyloxy)propoxy)(tert-butyl)dimethylsilane (1 eq), and 1M TBAF in THF (1.1 eq) in THF (0.2 M) was stirred at 25° C. for 20 minutes. The reaction was diluted with Et2O and washed with saturated NH4Cl, H2O, and brine. The organic phase was dried over anhydrous sodium sulfate and concentrated en vaccuo. The resulting crude was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-30% EtOAc/Hex to give (S)-2-azido-3-(hexadecyloxy)propan-1-ol as a colorless oil.

reactant | (R)-(2-azido-3-(hexadecyloxy)propoxy)(tert-butyl)dimethylsilane | 1 eq | N(=[N+]=[N-])[C@@H](CO[Si](C)(C)C(C)(C)C)COCCCCCCCCCCCCCCCC | C25H53N3O2Si
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
solvent | THF | 1.1 eq | C1CCOC1 | C4H8O
product | (S)-2-azido-3-(hexadecyloxy)propan-1-ol | N(=[N+]=[N-])[C@@H](CO)COCCCCCCCCCCCCCCCC | C19H39N3O2
